US07977344B2
6-Amino-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
2-[(2-Cyclopropylethyl)oxy]-8-(methoxy)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (0.1259 g) was dissolved in methanol (5 mL) and added 4N hydrogen chloride in 1,4-dioxane (2 mL). The reaction was stirred at room temperature for 4 hours. The reaction mixture was evaporated under reduced pressure to give a solid which was then suspended in water (1 mL) and small quantity of methanol (2-3 mL). This was then neutralised (to pH 7) by the addition of 2N sodium hydroxide. The suspension was evaporated to near dryness under reduced pressure and then suspended the solid in water (3 mL). The solid was filtered off under suction and washed with a few drops of methanol before being air-dried under suction. This material was then dried to constant weight under vacuo at 50° C. to give the title compound (94 mg).

reactant | 2-[(2-Cyclopropylethyl)oxy]-8-(methoxy)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 0.1259 g | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C17H25N5O3
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | methanol | 2-3 mL | CO | CH4O
product | 6-Amino-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 94 mg | NC1=C2NC(N(C2=NC(=N1)OCCC1CC1)CC1CCOCC1)=O | C16H23N5O3
